US04618609
(A) 1-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetone
A solution of carbonyl diimidazole (8.00 g) and 2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetic acid (20.00 g) in dichloromethane (400 ml) was stirred at room temperature under nitrogen for 2 hours and then added to a solution of pyridine (3.60 g) and 2,2-dimethyl-1,3-dioxane-4,6-dione (6.50 g) in dichloromethane over 5 minutes. The mixture was stirred at room temperature for 2 days, washed with ice-cold 2.5M hydrochloric acid and saturated brine, dried over MgSO4 and evaporated. The residue was dissolved in water (300 ml) and acetic acid (150 ml) and refluxed for 5 hours. The mixture was evaporated and partitioned between diethyl ether (800 ml) and 10% aqueous sodium carbonate. The ether solution was dried over MgSO4 and evaporated. The residue was chromatographed on silica (50 g) using 30% hexane in dichloromethane. Fractions which contained the pure product were evaporated to give the title compound (6.5 g), m.p. 117°-119°.

reactant | carbonyl diimidazole | 8.00 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetic acid | 20.00 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)O)C(=O)OCC | C20H21Cl2NO7
reactant | pyridine | 3.60 g | N1=CC=CC=C1 | C5H5N
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 6.50 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 1-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetone | 6.5 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)C)C(=O)OCC | C21H23Cl2NO6
